US08754220B2
1-[(4-Cyano-4-pyridin-2-ylpiperidin-1-yl)methyl]-4-oxo-N-piperidin-3-yl-4H-quinolizine-3-carboxamide
To a solution of tert-butyl 3-[({1-[(4-cyano-4-pyridin-2-ylpiperidin-1-yl)methyl]-4-oxo-4H-quinolizin-3-yl}carbonyl)amino]piperidine-1-carboxylate (0.335 g, 0.587 mmol) in 12 mL of dichloromethane at 0° C. was added trifluoroacetic acid (1.17 mL, 15.2 mmol). The mixture was warmed to rt, and after 2 h, treated with saturated aqueous sodium bicarbonate and extracted 3× with dichloromethane. The combined organic fractions were dried over sodium sulfate, filtered, and concentrated in vacuo to provide the title compound that gave a proton NMR spectra consistent with theory and a high resolution mass spectrum (ES+) m/z of 471.2504 calculated for M+H+ [C27H31N6O2: 471.2503]: 1H NMR (400 MHz, CDCl3) δ 9.93 (d, J=7.5 Hz, 1H), 9.38 (d, J=7.3 Hz, 1H), 8.60 (s, 1H), 8.55 (d, J=4.0 Hz, 1H), 8.14 (d, J=9.0 Hz, 1H), 7.71-7.61 (m, 2H), 7.56 (d, J=8.0 Hz, 1H), 7.27-7.19 (m, 2H), 4.21-4.18 (m, 1H), 3.78 (s, 2H), 3.30-3.27 (m, 1H), 3.00-2.76 (m, 4H), 2.63-2.53 (m, 3H), 2.29-2.21 (m, 2H), 2.05-1.86 (m, 3H), 1.85 (br s, 1H), 1.70-1.53 (m, 2H).

reactant | tert-butyl 3-[({1-[(4-cyano-4-pyridin-2-ylpiperidin-1-yl)methyl]-4-oxo-4H-quinolizin-3-yl}carbonyl)amino]piperidine-1-carboxylate | 0.587 mmol, 0.335 g | C(#N)C1(CCN(CC1)CC=1C=C(C(N2C=CC=CC12)=O)C(=O)NC1CN(CCC1)C(=O)OC(C)(C)C)C1=NC=CC=C1 | C32H38N6O4
reactant | trifluoroacetic acid | 15.2 mmol, 1.17 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 1-[(4-Cyano-4-pyridin-2-ylpiperidin-1-yl)methyl]-4-oxo-N-piperidin-3-yl-4H-quinolizine-3-carboxamide | C(#N)C1(CCN(CC1)CC=1C=C(C(N2C=CC=CC12)=O)C(=O)NC1CNCCC1)C1=NC=CC=C1 | C27H30N6O2
